US09034900B2
Step 3: 4-[2-(cyclopropylmethoxy)-5-methylsulfonylpyridin-3-yl]-2-methylisoquinolin-1-one
A mixture of 3-bromo-2-(cyclopropylmethoxy)-5-methylsulfonylpyridine (67 mg, 0.22 mmol), 2-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isoquinolin-1-one (60 mg, 0.21 mmol), Pd2(dba)3 (6 mg), XPhos (7 mg), and K3PO4 (111 mg, 0.51 mmol) in dioxane (1.2 mL) and water (140 uL) was purged with nitrogen, capped, and heated to 70° C. for 2 h. After the mixture was filtered through a short bed of celite, the filtrate was concentrated in vacuo and purified by prep-HPLC to afford the title compound (58 mg, 73%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.12-0.26 (m, 2H) 0.28-0.47 (m, 2H) 1.02-1.15 (m, 1H) 3.30-3.32 (m, 3H) 3.54-3.62 (m, 3H) 4.02-4.41 (m, 2H) 7.17-7.27 (m, 1H) 7.52-7.59 (m, 1H) 7.60-7.64 (m, 1H) 7.64-7.71 (m, 1H) 8.16-8.22 (m, 1H) 8.26-8.35 (m, 1H) 8.70-8.79 (m, 1H). LCMS (M+H)+=385.

reactant | 3-bromo-2-(cyclopropylmethoxy)-5-methylsulfonylpyridine | 0.22 mmol, 67 mg | BrC=1C(=NC=C(C1)S(=O)(=O)C)OCC1CC1 | C10H12BrNO3S
reactant | 2-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isoquinolin-1-one | 0.21 mmol, 60 mg | CN1C(C2=CC=CC=C2C(=C1)B1OC(C(O1)(C)C)(C)C)=O | C16H20BNO3
reactant | K3PO4 | 0.51 mmol, 111 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 1.2 mL | O1CCOCC1 | C4H8O2
solvent | water | 140 uL | O | H2O
catalyst | Pd2(dba)3 | 6 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | XPhos | 7 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
product | 4-[2-(cyclopropylmethoxy)-5-methylsulfonylpyridin-3-yl]-2-methylisoquinolin-1-one | 58 mg, 73% | C1(CC1)COC1=NC=C(C=C1C1=CN(C(C2=CC=CC=C12)=O)C)S(=O)(=O)C | C20H20N2O4S
